US06261738B1
32 g (89.3 mmol) of 2,2,2-trifluoro-1-(4-dodecyloxyphenyl)-ethanone are dissolved in 200 ml of ethanol. To the solution are added 7.4 g (107 mmol) of hydroxylammonium chloride and 21.2 g (268 mmol) of pyridine. The reaction mixture is refluxed for 1.5 hours, and the solvent is distilled off by a rotary evaporator. The residue is poured into water, and extracted with ethyl acetate. The organic phase is washed with potassium hydrogen sulfate aqueous solution, water, and brine, dried over MgSO4, and concentrated. The residue is purified by recrystallization from hexane/toluene, yielding 8.4 g of 2,2,2-trifluoro-1-(4-dodecyloxyphenyl)-ethanone oxime as a white solid with a melting point of 70-72° C. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ[ppm]: 0.89 (t, 3H), 1.20-1.40 (m, 16H), 1.40-1.50 (m, 2H), 1.79 (m, 2H), 3.86-4.03 (m, 2H), 6.93(E)/6.97(Z) (d, 2H), 7.44(E)/7.53(Z) (d, 2H), 8.59(Z)/8.61 (E) (br s, 1H). The signals are tentatively assigned to the E- and Z-conformations. The spectrum indicates that the compound is a mixture of E- and Z-isomers. The ratio of the mixture is estimated to be E:Z=1:4.

reactant | 2,2,2-trifluoro-1-(4-dodecyloxyphenyl)-ethanone | 89.3 mmol, 32 g | FC(C(=O)C1=CC=C(C=C1)OCCCCCCCCCCCC)(F)F | C20H29F3O2
reactant | hydroxylammonium chloride | 107 mmol, 7.4 g | [Cl-].O[NH3+]
reactant | pyridine | 268 mmol, 21.2 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2,2,2-trifluoro-1-(4-dodecyloxyphenyl)-ethanone oxime | 8.4 g | FC(C(=NO)C1=CC=C(C=C1)OCCCCCCCCCCCC)(F)F | C20H30F3NO2
